* NGSPICE file created from detV2.ext - technology: sky130A

.subckt sky130_fd_pr__res_xhigh_po_0p35_HDW2JU a_n35_1860# a_n35_n2292# VSUBS
X0 a_n35_n2292# a_n35_1860# VSUBS sky130_fd_pr__res_xhigh_po w=350000u l=1.86e+07u
.ends

.subckt detV2 din db do gnd
XR bot_cin do gnd sky130_fd_pr__res_xhigh_po_0p35_HDW2JU
X0 din bot_cin sky130_fd_pr__cap_mim_m3_1 l=8.7e+07u w=8.7e+07u
X1 do gnd sky130_fd_pr__cap_mim_m3_1 l=8.7e+07u w=8.7e+07u
X2 gnd db bot_cin gnd sky130_fd_pr__nfet_01v8 w=2.25e+07u l=150000u
.ends

